US09334286B2
Preparation 151: 5-Bromo-2-(methoxymethyl)-1-methyl-1H-imidazole
NaH (60%, 30 mg) was added to a solution of (5-bromo-1-methyl-1H-imidazol-2-yl)methanol (120 mg, 0.63 mmol) in THF (4 mL). After stirring for 15 minutes, iodomethane (35 uL, 0.57 mmol) was added. The resulting solution was stirred at 60° C. under microwave irradiation for 60 minutes. The reaction mixture was diluted with EtOAc, filtered and concentrated in vacuo. The residue was purified using Biotage silica gel column chromatography eluting with EtOAc to give the title compound as light brown oil (32 mg, 25%).

reactant | NaH | 30 mg | [H-].[Na+]
reactant | (5-bromo-1-methyl-1H-imidazol-2-yl)methanol | 0.63 mmol, 120 mg | BrC1=CN=C(N1C)CO | C5H7BrN2O
reactant | iodomethane | 0.57 mmol, 35 uL | IC | CH3I
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-Bromo-2-(methoxymethyl)-1-methyl-1H-imidazole | 32 mg, 25% | BrC1=CN=C(N1C)COC | C6H9BrN2O
